US07112697B1
o-Tolylthiophenol (entry 2, Table 1):
The general procedure was used to convert 2-iodotoluene and thiophenol to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (386 mg, 96% yield). 1H NMR (300 MHz, CDCl3) δ 7.20–7.00 (m, 9H; Ha, Hb, Hc, Hd, He, He′, Hf, Hf′, Hg), 2.26 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 139.88 (C8), 136.08 (C6), 133.69 (C1), 132.93 (C2), 130.54 (C5), 129.55 (C9, C13), 129.07, (C10, C12), 127.84 (C3), 126.66 (C11), 126.27 (C4), 20.55 (C7). Anal. Calcd. for C13H12S: C, 77.95; H, 6.04; S, 16.01; Found C, 77.87; H, 6.06; S, 15.81.

reactant | 2-iodotoluene | IC1=C(C=CC=C1)C | C7H7I
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | o-Tolylthiophenol | C1(=C(C=CC=C1)C1=C(C=CC=C1)S)C | C13H12S
